US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.85 g), 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyric acid ethyl ester (2.1 g) and polyphosphoric acid (10 g) was heated at 130° C. for 2 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel to afford title compound, 0.35 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.85 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyric acid ethyl ester | 2.1 g | C(C)OC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C14H17ClO5S
solvent | water | O | H2O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O)=O | C21H19Cl2NO6S
